US08053431B2
To a solution of 1-(2-methanesulfonylethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester (0.2 g, 7.09 mmol) in methanol was added LiOH (50 mg) followed by water (1 mL). The reaction mixture was allowed to stir at room temp for 2 h. it was then concentrated to remove methanol and the aqueous layer was acidified with citric acid. The precipitated product was filtered to give 1-(2-Methanesulfonyl-ethyl)-1H-benzoimidazole-5-carboxylic acid (90%). MS-ESI m/z 269 (M+1); 1H NMR (300 MHz, DMSO-d6) δ 12.6 (br, 1H), 8.4 (s, 1H), 8.2 (s, 1H), 7.9 (d, 1H), 7.8 (d, 1H), 4.8 (t, 2H), 3.8 (t, 2H), 3.0 (s, 3H).

reactant | 1-(2-methanesulfonylethyl)-1H-benzoimidazole-5-carboxylic acid methyl ester | 7.09 mmol, 0.2 g | COC(=O)C1=CC2=C(N(C=N2)CCS(=O)(=O)C)C=C1 | C12H14N2O4S
reactant | LiOH | 50 mg | [Li+].[OH-]
reactant | water | 1 mL | O | H2O
solvent | methanol | CO | CH4O
product | 1-(2-Methanesulfonyl-ethyl)-1H-benzoimidazole-5-carboxylic acid | 90% | CS(=O)(=O)CCN1C=NC2=C1C=CC(=C2)C(=O)O | C11H12N2O4S
